US04584303
Combining 1-phenyl-2-bromopropane with 4-[N-(4-fluorophenyl)methoxyacetamido]piperidine in the procedure similar to that of Example XII the base 1-(2-phenyl-1-propyl)-4-[N-4-fluorophenyl)methoxyacetamido]piperidine is formed. Dry HCl is added to a toluene solution of the base to obtain 1-(2-phenyl-1-propyl)-4-[N-(4-fluorophenyl)methoxyacetamido]piperidinium chloride, m.p. 250° C.

reactant | 1-phenyl-2-bromopropane | C1(=CC=CC=C1)CC(C)Br | C9H11Br
reactant | 4-[N-(4-fluorophenyl)methoxyacetamido]piperidine | FC1=CC=C(C=C1)CON(C(C)=O)C1CCNCC1 | C14H19FN2O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2-phenyl-1-propyl)-4-[N-(4-fluorophenyl)methoxyacetamido]piperidinium chloride | [Cl-].C1(=CC=CC=C1)C(C[NH+]1CCC(CC1)N(C(C)=O)OCC1=CC=C(C=C1)F)C | InChI=1S/C23H29FN2O2.ClH/c1-18(21-6-4-3-5-7-21)16-25-14-12-23(13-15-25)26(19(2)27)28-17-20-8-10-22(24)11-9-20;/h3-11,18,23H,12-17H2,1-2H3;1H
